US05061726
Using the method described in Example 1(v) and starting from 4-ethynyl cyclohexanecarboxaldehyde (European Patent Application No. 88305107) and 2-mercaptomethyl-3-methylbutan-1-ol, 2-(4-ethynylcyclohexyl)-5-isopropyl-1,3-oxathiane was obtained as a mixture of isomers.

reactant | 4-ethynyl cyclohexanecarboxaldehyde | C(#C)C1CCC(CC1)C=O | C9H12O
reactant | 2-mercaptomethyl-3-methylbutan-1-ol | SCC(CO)C(C)C | C6H14OS
product | 2-(4-ethynylcyclohexyl)-5-isopropyl-1,3-oxathiane | C(#C)C1CCC(CC1)C1OCC(CS1)C(C)C | C15H24OS
